US04204991
3.0 g of t-butoxycarbonylsarcosylnitroarginylvalyltyrosylisoleucylhistidylprolylserine methyl ester is dissolved in 20 ml of pyridine and 10 ml of triethylamine. The solution is cooled in an ice bath. 0.51 g of tosyl chloride is added to the solution. At ten minute intervals, three additional 0.51 g batches of tosyl chloride are added. After standing for two hours, the reaction mixture is filtered. 200 ml of methylene chloride is added to the reaction. The solution is extracted three times with 5% ammonium hydroxide in water. The solution is then dried over sodium sulfate and stripped under vacuum. The residue istaken up in 2% methanol/methylene chloride and passed through a silica gel column to remove the colored impurities and afford the pure product t-butoxycarbonylsarcosylnitroarginylvalyltyrosylisoleucylhistidylprolyldehydroalanine methyl ester.

reactant | t-butoxycarbonylsarcosylnitroarginylvalyltyrosylisoleucylhistidylprolylserine methyl ester | 3.0 g | COC([C@@H](NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](N([N+](=O)[O-])C(CN(C)C(=O)OC(C)(C)C)=O)CCCNC(N)=N)=O)C(C)C)=O)CC1=CC=C(C=C1)O)=O)[C@@H](C)CC)=O)CC1=CNC=N1)=O)=O)CO)=O | C49H76N14O15
reactant | tosyl chloride | 0.51 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | t-butoxycarbonylsarcosylnitroarginylvalyltyrosylisoleucylhistidylprolyldehydroalanine methyl ester | COC(C(NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](N([N+](=O)[O-])C(CN(C)C(=O)OC(C)(C)C)=O)CCCNC(N)=N)=O)C(C)C)=O)CC1=CC=C(C=C1)O)=O)[C@@H](C)CC)=O)CC1=CNC=N1)=O)=O)=C)=O | C49H74N14O14
